US04699992
3.5 g of methyl 3-(1-pyrrolidinyl)-2-(2,4-dichloro-5-fluorobenzoyl)acrylate are heated to boiling under reflux with 0.8 g of cyclopropylamine and 50 ml of toluene for one hour. The toluene is removed by distillation in vacuo, and the residue is recrystallized from acetonitrile. 2.5 g of methyl 3-cyclopropylamino-2-(2,4-dichloro-5-fluorobenzoyl)acrylate of melting point 150°-151° C. are obtained.

reactant | methyl 3-(1-pyrrolidinyl)-2-(2,4-dichloro-5-fluorobenzoyl)acrylate | 3.5 g | N1(CCCC1)C=C(C(=O)OC)C(C1=C(C=C(C(=C1)F)Cl)Cl)=O | C15H14Cl2FNO3
reactant | cyclopropylamine | 0.8 g | C1(CC1)N | C3H7N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 3-cyclopropylamino-2-(2,4-dichloro-5-fluorobenzoyl)acrylate | 2.5 g | C1(CC1)NC=C(C(=O)OC)C(C1=C(C=C(C(=C1)F)Cl)Cl)=O | C14H12Cl2FNO3
